* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP5014_chan1_2.asc
* Generated by LTspice 24.1.9 for Windows.
R3 N005 0 2.43K
L1 N001 OUT1 1µ Rser=33m
C2 N004 N005 5.6n
C4 N002 0 100n
C1 OUT1 0 200µ
V1 IN 0 5
Rload1 OUT1 0 250m
R6 N009 0 165K
R7 N008 0 2.43K
L2 N006 OUT2 1µ Rser=33m
C3 N007 N008 5.6n
C5 OUT2 0 200µ
Rload2 OUT2 0 250m
R2 N003 0 48.7K
R1 N002 N003 48.7K
X§U1 N009 NC_01 N003 IN N001 OUT1 N004 IN N002 0 0 IN NC_02 NC_03 NC_04 NC_05 N006 N007 OUT2 IN IN N003 ADP5014 RP=49m RN=37m CS=0.06 CL1=6.9 CL2=6.9 PSM=0 timer=1 parallel=0
.tran 500u startup
.softstart .2 ; This option reduces the internal softstart time by 5x.
* This model simulates two channels of ADP5014\nFeatures configured by the CFG1 and CFG2 pins are controlled\nby features of the IC found by Ctrl right click.\n--CL is current limit and and can be set to 6.9 for 4 A,\n  or 3.5 for  2 A.  It is also a good to simulate startup using the minimum values\n --Paralllel should be set to 1 if using channels in parallel, else 0\n--Timer should be set to 1 or 8 depending on the length hiccup required\n--PSM should be 0 for forced PWM and 1 for PSM (low power pulse\n   skip mode) enabled\n--Outputs of the GPIO pin are pinned out seperately for your convenience\n--Enable mode is always manual mode\n--See the datasheet to configure channels for parallelt operation
.lib ADP5014.sub
.backanno
.end
